data/oMe_Silver.jsonl
{"reaction_id": "NR-052_1-c1ccccc1_2-c1ccccc1_3-CC","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(c1ccccc1)(c1ccccc1)(CC)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(c1ccccc1)(c1ccccc1)(CC)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccccc1)(c1ccccc1)(CC)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
{"reaction_id": "NR-110_1-c1ccccc1C_2-C(F)(F)F_3-Br_4-C(C)(C)C","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(C(F)(F)F)Br","O=CC(C)(C)C"],"products_smiles": ["C(C(C)(C)C)=C(C(F)(F)F)Br"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)[C-](C(F)(F)F)Br","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(C(F)(F)F)(Br)C([O-])C(C)(C)C","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COP1([O-])(Oc1ccccc1C)C(C(F)(F)F)(Br)C(C(C)(C)C)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)=C(C(F)(F)F)Br","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
